US08492540B2
2-{4-[4-(2-tert-Butyl-6-trifluoromethyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-6-methyl-2H-[1,2,4]triazine-3,5-dione hydrochloride was prepared from 2-(4-chloro-butyl)-6-methyl-2H-[1,2,4]triazine-3,5-dione and 2-tert-butyl-4-piperazin-1-yl-6-trifluoromethyl-pyrimidine by analogy to the process described in example 1.

reactant | 2-(4-chloro-butyl)-6-methyl-2H-[1,2,4]triazine-3,5-dione | ClCCCCN1N=C(C(NC1=O)=O)C | C8H12ClN3O2
reactant | 2-tert-butyl-4-piperazin-1-yl-6-trifluoromethyl-pyrimidine | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C(F)(F)F | C13H19F3N4
product | 2-{4-[4-(2-tert-Butyl-6-trifluoromethyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-6-methyl-2H-[1,2,4]triazine-3,5-dione hydrochloride | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1N=C(C(NC1=O)=O)C)C(F)(F)F | InChI=1S/C21H30F3N7O2.ClH/c1-14-17(32)27-19(33)31(28-14)8-6-5-7-29-9-11-30(12-10-29)16-13-15(21(22,23)24)25-18(26-16)20(2,3)4;/h13H,5-12H2,1-4H3,(H,27,32,33);1H
